US07030240B2
tert-butyl 3-(1-(3-fluorophenyl)ethylamino)propylcarbamate
A solution of tert-butyl 3-aminopropylcarbamate (0.7 g, 4.05 m. mol) and 1-(3-fluorophenyl)ethanone (0.5 g, 3.6 m. mol) in titanium(IV) isopropoxide (1.8 mL, 6 m. mol) was stirred at room temperature for 3 h. It was diluted with methanol (10 mL) and then sodium borohydride (0.22 g, 5.76 m. mol) was added carefully and stirred for 10 minutes. The reaction mixture was quenched with 0.1 N NaOH (10 mL) solution. It was filtered through celite and washed with dichloromethane (2×20 mL). The organic layer was separated, dried over CaCl2 and evaporated to get the title product (1.07 g, 100%)as thick liquid. 1H NMR (400 MHz, CDCl3): δ 7.30 (m, 1H), 7.05 (m, 2H), 6.95 (m, 1H), 5.10 (bs, 1H), 3.75 (q, 1H), 3.15 (m, 2H), 2.55 (m, 1H), 2.45 (m, 1H), 1.60 (m, 2H), 1.45 (s, 9H), 1.35 (d, 3H). MS (ESI) m/z: Calculated: 296.38; Observed: 297.0 (M++1).

reactant | tert-butyl 3-aminopropylcarbamate | 0.7 g | NCCCNC(OC(C)(C)C)=O | C8H18N2O2
reactant | 1-(3-fluorophenyl)ethanone | 0.5 g | FC=1C=C(C=CC1)C(C)=O | C8H7FO
reactant | sodium borohydride | 0.22 g | [BH4-].[Na+]
solvent | titanium(IV) isopropoxide | 1.8 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | methanol | 10 mL | CO | CH4O
product | tert-butyl 3-(1-(3-fluorophenyl)ethylamino)propylcarbamate | 1.07 g, 100% | FC=1C=C(C=CC1)C(C)NCCCNC(OC(C)(C)C)=O | C16H25FN2O2
